US08871782B2
Isobutyryl chloride (0.160 mL, 1.53 mmol) was added dropwise to a solution of 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.46 mmol) in dichloromethane (10 mL), and the reaction was stirred for 16 hours. A precipitate formed, and dichloromethane (10 mL) was added. The precipitate was isolated by filtration, washed with dichloromethane (20 mL) and diethyl ether (75 mL), and dried for one hour under reduced pressure to provide 0.511 g of N-(2-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)-2-methylpropanamide hydrochloride as an off-white solid, mp 240-242° C.

reactant | Isobutyryl chloride | 1.53 mmol, 0.160 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 8-(2-aminoethoxy)-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.46 mmol, 0.500 g | NCCOC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COCC | C18H25N5O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(2-{[4-amino-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}ethyl)-2-methylpropanamide hydrochloride | 0.511 g | Cl.NC1=NC=2C=CC(=CC2C2=C1N=C(N2CCC)COCC)OCCNC(C(C)C)=O | InChI=1S/C22H31N5O3.ClH/c1-5-10-27-18(13-29-6-2)26-19-20(27)16-12-15(7-8-17(16)25-21(19)23)30-11-9-24-22(28)14(3)4;/h7-8,12,14H,5-6,9-11,13H2,1-4H3,(H2,23,25)(H,24,28);1H
